US03980666
Ninety-three grams (0.5 mole) of D,L-penicillamine hydrochloride in 500 ml of acetone were heated at reflux temperature for 30 minutes under a nitrogen atmosphere. After distilling off the excess acetone there were obtained 113 grams of D,L-2,2,5,5-tetramethyl-thiazolidine-4-carboxylic acid. The yield amounts to 99%.

reactant | D,L-penicillamine hydrochloride | 0.5 mole, Ninety-three grams | Cl.NC(C(C)(C)S)C(=O)O
reactant | acetone | 500 ml | CC(=O)C | C3H6O
product | D,L-2,2,5,5-tetramethyl-thiazolidine-4-carboxylic acid | 113 grams | CC1(C(NC(S1)(C)C)C(=O)O)C | C8H15NO2S
